US07482313B2
5-Isopropenyl-2,4,8-trimethylbicyclo[3.3.1]non-7-en-2-ol (8A and 8B)
At 5° C., a soln. of 1 g of 5-isopropenyl-4,8-dimethylbicyclo[3.3.1]non-7-en-2-one (4.9 mmol) in 15 ml THF was treated dropwise with 21 ml 1.4M MeLi in Et2O (29.4 mmol, 6 eq.). The reaction mixture was stirred 5 h at 5° C., warmed to 25° C. overnight, poured into aq. sat. NH4Cl soln., and extracted with Et2O. The org. phase was washed with aq. sat. NaCl soln., dried, and concentrated. FC (SiO2, hexane/Et2O 9:1) of the crude (1.2 g, starting material/OH exo/OH endo 17:65:18)gave 0.2 g of starting material (20%), 0.5 g 8A (46%), 0.25 g 8A/8B (1:1, 23%), and 0.1 g 8B (9%).

reactant | 5-isopropenyl-4,8-dimethylbicyclo[3.3.1]non-7-en-2-one | 4.9 mmol, 1 g | C(=C)(C)C12C(CC(C(C(=CC1)C)C2)=O)C | C14H20O
reactant | MeLi | 1.4M, 21 ml | [Li]C
reactant | Et2O | 29.4 mmol, 6 eq. | CCOCC | C4H10O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 5-Isopropenyl-2,4,8-trimethylbicyclo[3.3.1]non-7-en-2-ol | C(=C)(C)C12C(CC(C(C(=CC1)C)C2)(O)C)C | C15H24O
